US05693320
To a solution of 2-acetyl-5-methacrylamidosalicylic acid and 1% by weight of hydroquinone in methanol was added 0.5% by weight of concentrated sulfuric acid, and the solution was subject to reflux for several hours. After evaporating the solvent, the remaining residue was recrystallized by a mixture of water and methanol to give methyl 2-acetyl-5-methacrylamidosalicylate.

reactant | 2-acetyl-5-methacrylamidosalicylic acid | C(C)(=O)C1(C(C(=O)O)C=C(C=C1)NC(C(=C)C)=O)O | C13H15NO5
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | methyl 2-acetyl-5-methacrylamidosalicylate | C(C)(=O)C1(C(C(=O)OC)C=C(C=C1)NC(C(=C)C)=O)O | C14H17NO5
